US09302998B2
STEP C: 1,5-bis-benzyloxy-2-isopropyl-4-azido-benzene
tBuONO (2.25 ml, 19 mmol) and TMSN3 (2 ml, 15.2 mmol) were added to a solution of 1,5-bis-benzyloxy-2-isopropyl-4-amino-benzene (1.10 g, 3.18 mmol) in CH3CN (40 ml). The reaction mixture was stirred for 1 hour at 0° C. and for 12 hours at RT. The solvent was evaporated under reduced pressure and the crude reaction mixture was purified by flash chromatography (PE/AcOEt:95/5 to 90/10). The title compound was obtained as a brown solid (890 mg, 75%).

reactant | TMSN3 | 15.2 mmol, 2 ml | [Si](C)(C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | 1,5-bis-benzyloxy-2-isopropyl-4-amino-benzene | 3.18 mmol, 1.10 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)N)C(C)C | C23H25NO2
solvent | CH3CN | 40 ml | CC#N | C2H3N
product | 1,5-bis-benzyloxy-2-isopropyl-4-azido-benzene | Yield: 75% | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)N=[N+]=[N-])C(C)C | C23H23N3O2
